US07700641B2
Synthesis of 7-hydroxy-1′-pentyl-6,7-dihydrospiro[indeno[5,6-d][1,3]dioxole-5,3′-indol]-2′(1′H)-one
To a solution of 1-pentyl-6′H-spiro[indole-3,5′-naphtho[2,3-d][1,3]dioxole]-2,8′(1H,7′H)-dione (0.20 g, 0.55 mmol) in methanol (10.0 mL) was added sodium borohydride (0.03 g, 0.83 mmol). The reaction mixture was stirred at ambient temperature for 2 h and poured into of water (100 mL) and extracted with ethyl acetate (100 mL). The organic layer was washed with water, dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to flash column chromatography to afford the title compound (0.18 g, 90%) as an oil: 1H NMR (300 MHz, CDCl3) δ 7.36-7.29 (m, 1H), 7.11-6.99 (m, 3H), 6.93 (d, 1H), 5.98 (s, 1H), 5.94-5.87 (m, 2H), 5.16 (d, 1H), 3.80-3.61 (m, 2H), 2.69 (br, 1H), 2.39 (d, 1H), 1.75-1.62 (m, 2H), 1.38-1.22 (m, 4H), 0.87 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 180.5, 148.9, 148.5, 143.7, 140.5, 136.9, 132.1, 128.7, 123.7, 123.3, 108.8, 105.7, 103.2, 101.5, 74.8, 59.6, 40.4, 28.9, 27.0, 22.3, 14.0; MS (ES+) m/z 388.4 (M+23).

reactant | 1-pentyl-6′H-spiro[indole-3,5′-naphtho[2,3-d][1,3]dioxole]-2,8′(1H,7′H)-dione | 0.55 mmol, 0.20 g | C(CCCC)N1C(C2(C3=CC4=C(OCO4)C=C3C(CC2)=O)C2=CC=CC=C12)=O | C23H23NO4
reactant | sodium borohydride | 0.83 mmol, 0.03 g | [BH4-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | methanol | 10.0 mL | CO | CH4O
product | 7-hydroxy-1′-pentyl-6,7-dihydrospiro[indeno[5,6-d][1,3]dioxole-5,3′-indol]-2′(1′H)-one | 0.18 g, 90% | OC1CC2(C(N(C3=CC=CC=C23)CCCCC)=O)C2=CC3=C(OCO3)C=C12 | C22H23NO4
